US08039674B2
3-[4-(3-phenylpropoxy)phenyl]propanenitrile
To a solution of 4-hydroxyphenylpropanenitrile (5.25 g) in N,N-dimethyl formamide (40 mL), 3-phenylpropyl bromide (7.1 g) and potassium carbonate (14.79 g) were added, followed by stirring at room temperature for 16 hours. Then, the reaction mixture was diluted with diethyl ether and an organic layer was successively washed with water and brine. After the organic layer was dried, the solvent was concentrated and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1) to give the title compound (8.54 g) having the following physical properties.

reactant | 4-hydroxyphenylpropanenitrile | 5.25 g | OC1=CC=C(C=C1)C(C#N)C | C9H9NO
reactant | 3-phenylpropyl bromide | 7.1 g | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | potassium carbonate | 14.79 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethyl formamide | 40 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-[4-(3-phenylpropoxy)phenyl]propanenitrile | 8.54 g | C1(=CC=CC=C1)CCCOC1=CC=C(C=C1)CCC#N | C18H19NO
